US08119646B2
To a solution of cyclohexane carboxaldehyde oxime (35.6 g, 280 mmol) in DMF (300 ml) is added N-chlorosuccinimide (39.2 g, 294 mmol) portionwise, while maintaining the reaction temperature below 45° C. On complete addition, the mixture is stirred overnight at room temperature before adding a saturated aqueous NH4Cl solution (900 ml). The mixture is extracted with ethyl acetate. The organic layer is washed successively with water (500 ml) and brine (500 ml), dried (MgSO4), filtered and concentrated. The residue and 5-methyltetrazole (24.7 g, 294 mmol) are diluted in dichloromethane (400 ml) and triethyamine (50.8 ml, 364 mmol) is added dropwise at room temperature. After stirring overnight, the mixture in concentrated and the residue is taken up in ethyl acetate. The solution is washed successively with a saturated aqueous NH4Cl solution, water and brine, then dried (MgSO4), filtered and concentrated. Silica-gel chromatography of the residue affords 16.6 g of 5-methyl-1-(cyclohexylcarbohydroximoyl)-tetrazole [yield 28.3%; 1H-NMR (CDCl3) δppm: 1.1-1.5 (m, 4H), 1.62-1.98 (m, 6H), 2.55 (s, 3H), 2.8 (m, 1H), 9.3 (broad, 1H); HPLC/MS: m/z=210 (M+H)].

reactant | cyclohexane carboxaldehyde oxime | 280 mmol, 35.6 g | C1(CCCCC1)C=NO | C7H13NO
reactant | N-chlorosuccinimide | 294 mmol, 39.2 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | NH4Cl | 900 ml | [NH4+].[Cl-]
reactant | 5-methyltetrazole | 294 mmol, 24.7 g | CC1=NN=NN1 | C2H4N4
reactant | triethyamine | 364 mmol, 50.8 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 5-methyl-1-(cyclohexylcarbohydroximoyl)-tetrazole | 16.6 g, yield 28.3% | CC1=NN=NN1C(=NO)C1CCCCC1 | C9H15N5O
